US06555556B1
4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-5-carbamoyl-2-methylnitrobenzene
To a solution of 4-(1-t-butoxycarbonylpiperidin-4-yloxy)-5-carboxy-2-methylnitrobenzene (4.8 g) in dichloromethane (100 ml) were added isobutyl chloroformate (1.7 ml) and triethylamine (1.8 ml) in an ice bath and the mixture was stirred at the same temperature for 1 hour. To the reaction mixture was added 28% aqueous ammonia (0.8 ml) and the resulting mixture was stirred for 2 hours. The reaction mixture was concentrated in vacuo. The residue was purified by chromatography on a silica gel column using dichloromethane/methanol=19/1 as an eluant to give the desired compound (4.7 g, yield 97%) as a white solid.

reactant | 4-(1-t-butoxycarbonylpiperidin-4-yloxy)-5-carboxy-2-methylnitrobenzene | 4.8 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC(=C(C=C1C(=O)O)[N+](=O)[O-])C | C18H24N2O7
reactant | isobutyl chloroformate | 1.7 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | triethylamine | 1.8 ml | C(C)N(CC)CC | C6H15N
reactant | ammonia | 0.8 ml | N | H3N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-5-carbamoyl-2-methylnitrobenzene | 4.7 g, yield 97% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC(=C(C=C1C(N)=O)[N+](=O)[O-])C | C18H25N3O6
